US07652041B2
Step 1: Preparation of 1-(3-bromophenyl)-2,5-dimethyl-1H-pyrrole
A solution of 3-bromoaniline (2.50 mL, 23.0 mmol) in acetonylacetone (3.00 mL, 25.6, mmol) containing a small amount of p-TSA was heated at reflux in a round bottom flask fitted with a Dean Stark trap and a reflux condenser for 5 h. The reaction mixture was allowed to cool to rt and diluted with EtOAc. The solution was washed with 1N HCl and sat. NaHCO3 solution. The organic solutions were dried over Na2SO4, filtered, and concentrated to give the desired product as a light brown solid (5.5 g, 96%) which was used without further purification.

reactant | 3-bromoaniline | 23.0 mmol, 2.50 mL | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | p-TSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | acetonylacetone | 3.00 mL | C(C(=O)C)CC(C)=O | C6H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(3-bromophenyl)-2,5-dimethyl-1H-pyrrole | 5.5 g, 96% | BrC=1C=C(C=CC1)N1C(=CC=C1C)C | C12H12BrN
